US07635684B2
3-(2,3,4,6-Tetra-O-acetyl-β-D-galactopyranosyloxy)-4-[(4-{2-[2-{[4-(benzyloxycarbonyl)piperazin-1-yl]carbonyl}-2-(methyl)propionylamino]ethoxy}-2-methylphenyl)methyl]-5-isopropyl-1H-pyrazole
The title compound was prepared in a similar manner to that described in Reference Example 17 using 4-[(4-{2-[2-{[4-(benzyloxycarbonyl)piperazin-1-yl]carbonyl}-2-(methyl)-propionylamino]ethoxy}-2-methylphenyl)methyl]-1,2-dihydro-5-isopropyl-3H-pyrazol-3-one and acetobromo-α-D-galactose instead of 4-{[4-(3-benzyloxypropoxy)phenyl]methyl}-1,2-dihydro-5-isopropyl-3H-pyrazol-3-one and acetobromo-α-D-glucose, respectively.

reactant | 4-[(4-{2-[2-{[4-(benzyloxycarbonyl)piperazin-1-yl]carbonyl}-2-(methyl)-propionylamino]ethoxy}-2-methylphenyl)methyl]-1,2-dihydro-5-isopropyl-3H-pyrazol-3-one | C(C1=CC=CC=C1)OC(=O)N1CCN(CC1)C(=O)C(C(=O)NCCOC1=CC(=C(C=C1)CC=1C(NNC1C(C)C)=O)C)(C)C | C33H43N5O6
reactant | acetobromo-α-D-galactose | CC(=O)OC[C@@H]1[C@@H]([C@@H]([C@H]([C@H](O1)Br)OC(=O)C)OC(=O)C)OC(=O)C | C14H19BrO9
reactant | acetobromo-α-D-glucose | CC(=O)OC[C@@H]1[C@H]([C@@H]([C@H]([C@H](O1)Br)OC(=O)C)OC(=O)C)OC(=O)C | C14H19BrO9
product | 3-(2,3,4,6-Tetra-O-acetyl-β-D-galactopyranosyloxy)-4-[(4-{2-[2-{[4-(benzyloxycarbonyl)piperazin-1-yl]carbonyl}-2-(methyl)propionylamino]ethoxy}-2-methylphenyl)methyl]-5-isopropyl-1H-pyrazole | C(C)(=O)O[C@H]1[C@@H](O[C@@H]([C@@H]([C@@H]1OC(C)=O)OC(C)=O)COC(C)=O)OC1=NNC(=C1CC1=C(C=C(C=C1)OCCNC(C(C)(C)C(=O)N1CCN(CC1)C(=O)OCC1=CC=CC=C1)=O)C)C(C)C | C47H61N5O15
